### PR TITLE
refactor(SetTheory/Ordinal/Arithmetic): rework `Ordinal.pred` API

### PR DESCRIPTION
**Pull request by vihdzp**
This PR does the following:
- give a simpler definition of `Ordinal.pred`
- replace `¬ ∃ a, o = succ a` and `∀ a, o ≠ succ a` by `IsSuccPrelimit o` throughout
- improve theorem names

---

There's a legitimate question of whether we even want `Ordinal.pred` (see [Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Ordinal.2Epred)) but this should be a good change in the meanwhile regardless.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -372,9 +313,99 @@ theorem mk_Iio_ordinal (o : Ordinal.{u}) :
...
+  isSuccPrelimitRecOn o (fun a _ ↦ a) (fun a _ ↦ a)
+
+@[simp]
+theorem pred_succ (o) : pred (succ o) = o :=
+  isSuccPrelimitRecOn_succ ..
+
+theorem pred_eq_of_isSuccPrelimit {o} : IsSuccPrelimit o → pred o = o :=
+  isSuccPrelimitRecOn_of_isSuccPrelimit _ _
 
+alias _root_.Order.IsSuccPrelimit.pred_eq := pred_eq_of_isSuccPrelimit
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:329]:
```suggestion
alias _root_.Order.IsSuccPrelimit.ordinalPred_eq := pred_eq_of_isSuccPrelimit
```
Same below

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -372,9 +313,99 @@ theorem mk_Iio_ordinal (o : Ordinal.{u}) :
...
+
+theorem pred_le_self (o) : pred o ≤ o := by
+  obtain ⟨a, rfl⟩ | ho := mem_range_succ_or_isSuccPrelimit o
+  · simpa using le_succ a
+  · rw [pred_eq_of_isSuccPrelimit ho]
+
+theorem self_le_succ_pred (o) : o ≤ succ (pred o) := by
+  obtain ⟨a, rfl⟩ | ho := mem_range_succ_or_isSuccPrelimit o
+  · simp
+  · simpa [ho.pred_eq] using le_succ o
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:346]: Can you prove that `pred` and `succ` form a galois connection? namely `pred a <= b iff a <= succ b` and `pred (succ a) = a`

**Comment by YaelDillies** [comment]
You forgot to deprecate `pred_lt_iff_is_succ`

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:346]: Both of these theorems exist, see `pred_succ_gc` and `pred_succ`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -372,9 +313,103 @@ theorem mk_Iio_ordinal (o : Ordinal.{u}) :
...
+  simpa [eq_comm] using h
+
+theorem pred_succ_gc : GaloisConnection pred succ := by
+  intro a b
+  obtain ⟨a, rfl⟩ | ha := mem_range_succ_or_isSuccPrelimit a
+  · simp
+  · rw [ha.ordinalPred_eq, ha.le_succ_iff]
+
+@[simp]
+theorem pred_le_iff {a b} : pred a ≤ b ↔ a ≤ succ b :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:388]:
```suggestion
theorem pred_le_iff_le_succ {a b} : pred a ≤ b ↔ a ≤ succ b :=
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 4]
```diff
@@ -372,9 +313,103 @@ theorem mk_Iio_ordinal (o : Ordinal.{u}) :
...
+  pred_succ_gc.le_iff_le
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:389]: Can you prove `pred_succ_gc` second instead of first?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 5]
```diff
@@ -372,9 +313,103 @@ theorem mk_Iio_ordinal (o : Ordinal.{u}) :
...
+
+@[deprecated pred_le_iff (since := "2025-02-11")]
+alias pred_le := pred_le_iff
+
+@[simp]
+theorem lt_pred_iff {a b} : a < pred b ↔ succ a < b :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:395]:
```suggestion
theorem lt_pred_iff_succ_lt {a b} : a < pred b ↔ succ a < b :=
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 6]
```diff
@@ -372,9 +313,103 @@ theorem mk_Iio_ordinal (o : Ordinal.{u}) :
...
+@[deprecated succ_pred_iff_is_succ (since := "2025-02-11")]
+theorem succ_pred_iff_is_succ {o} : succ (pred o) = o ↔ ∃ a, o = succ a := by
+  simpa [eq_comm, isSuccPrelimit_iff_succ_ne] using succ_pred_eq_iff_not_isSuccPrelimit
+
+@[deprecated IsSuccPrelimit.succ_lt_iff (since := "2025-02-11")]
+theorem succ_lt_of_not_succ {o b : Ordinal} (h : ¬∃ a, o = succ a) : succ b < o ↔ b < o := by
+  apply (isSuccPrelimit_of_succ_ne _).succ_lt_iff
+  simpa [eq_comm] using h
+
+theorem pred_succ_gc : GaloisConnection pred succ := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:381]: Can you strengthen to a galois insertion?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 7]
```diff
@@ -372,9 +313,103 @@ theorem mk_Iio_ordinal (o : Ordinal.{u}) :
...
+
+theorem pred_le_self (o) : pred o ≤ o := by
+  obtain ⟨a, rfl⟩ | ho := mem_range_succ_or_isSuccPrelimit o
+  · simpa using le_succ a
+  · rw [pred_eq_of_isSuccPrelimit ho]
+
+theorem self_le_succ_pred (o) : o ≤ succ (pred o) := by
+  obtain ⟨a, rfl⟩ | ho := mem_range_succ_or_isSuccPrelimit o
+  · simp
+  · simpa [ho.ordinalPred_eq] using le_succ o
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:346]: Can you prove this using the galois connection?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 8]
```diff
@@ -247,6 +183,11 @@ theorem lt_limit {o} (h : IsLimit o) {a} : a < o ↔ ∃ x < o, a < x := by
 theorem lift_isLimit (o : Ordinal.{v}) : IsLimit (lift.{u,v} o) ↔ IsLimit o :=
   liftInitialSeg.isSuccLimit_apply_iff
 
+@[simp]
+theorem isSuccPrelimit_lift_iff {o : Ordinal.{v}} :
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:187]:
```suggestion
theorem isSuccPrelimit_lift {o : Ordinal.{v}} :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by grunweg** [comment]
Coming here from PR triage: this PR has a merge conflict; can you merge `master`, please? Thanks!

**Comment by vihdzp** [comment]
Moved to #26612.
